* D:\home\jjl119\Imperial\404CircuitSim\test\EvalTests\SingleDiode_test\Draft2.asc
D1 0 N001 D
D2 N001 N002 D
D3 0 N003 D
D4 N003 N002 D
V1 N001 N003 SINE(0 10 50)
R1 N002 0 1000
C1 N002 0 10µ
.model D D
.lib C:\users\jjl119\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 50m 0 0.001m
.backanno
.end
